US04925863
5-Chloro-2-chloroacetylpyridine (20 g.) was dissolved in acetonitrile (25 ml.) and added dropwise to a refluxing solution of 1,2,4-triazole (6.2 g.) and potassium carbonate (13.4 g.) in acetonitrile (25 ml.). When the addition was complete, the solution was allowed to cool and was stirred for 2 hours. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, washed twice with water and twice with brine, dried over sodium sulphate and filtered. The filtrate was evaporated to dryness under reduced pressure, and the residue was chromatographed on a K60 silica column, eluting with ethyl acetate, to give 5-chloropyrid-2-yl-1,2,4-triazol-1-ylmethyl ketone which after crystallisation from ethyl acetate/petroleum ether (b.p. 60°-80°), had m.p. 146°-148°.

reactant | 5-Chloro-2-chloroacetylpyridine | 20 g | ClC=1C=CC(=NC1)C(CCl)=O | C7H5Cl2NO
reactant | 1,2,4-triazole | 6.2 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 13.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-chloropyrid-2-yl-1,2,4-triazol-1-ylmethyl ketone | ClC=1C=CC(=NC1)C(N1N=CN=C1)C(=O)C(C1=NC=C(C=C1)Cl)N1N=CN=C1 | C17H12Cl2N8O
